US05425878
4'-formylbenzo-15-crown-5-ether (A)
A solution of hexamethylenetretramine (1.87 mmol, 0.27 g) in trifluoroacetic acid (1.4 cm3) was added to benzo 15-crown-5 ether (1.87 mmol, 0.5 g) under nitrogen; the mixture was heated to reflux for 12 hours.

reactant | benzo 15-crown-5 ether | 1.87 mmol, 0.5 g | C1COCCOC2=CC=CC=C2OCCOCCO1 | C14H20O5
reactant | trifluoroacetic acid | 1.4 cm3 | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-formylbenzo-15-crown-5-ether | C1COCCOC2=C(C=C(C=C2)C=O)OCCOCCO1 | C15H20O6
